### PR TITLE
[Merged by Bors] - chore: resolve some simp-related porting notes

### PR DESCRIPTION
**Pull request by grunweg**
In all cases, the original proof works now. I presume this is due to simp changes in Lean 4.7, but haven't verified.

---

Picked from  [another branch](https://github.com/leanprover-community/mathlib4/tree/MR-porting-notes-simp) that needs to be cleaned up/split more.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Constructions/Prod/Integral.lean [hunk 1]
```diff
@@ -234,9 +234,7 @@ theorem hasFiniteIntegral_prod_iff ⦃f : α × β → E⦄ (h1f : StronglyMeasu
     HasFiniteIntegral f (μ.prod ν) ↔
       (∀ᵐ x ∂μ, HasFiniteIntegral (fun y => f (x, y)) ν) ∧
         HasFiniteIntegral (fun x => ∫ y, ‖f (x, y)‖ ∂ν) μ := by
-  simp only [HasFiniteIntegral]
-  -- porting note (#10745): was `simp`
-  rw [lintegral_prod_of_measurable _ h1f.ennnorm]
+  simp only [HasFiniteIntegral, lintegral_prod_of_measurable _ h1f.ennnorm]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Constructions/Prod/Integral.lean:237]: The corresponding [mathlib3 line](https://github.com/leanprover-community/mathlib/blob/65a1391a0106c9204fe45bc73a039f056558cb83/src/measure_theory/constructions/prod/integral.lean#L215) was
`simp only [has_finite_integral, lintegral_prod_of_measurable _ h1f.ennnorm],`

File: Mathlib/Analysis/PSeries.lean [hunk 2]
```diff
@@ -223,7 +223,7 @@ theorem summable_nat_pow_inv {p : ℕ} :
 if and only if `1 < p`. -/
 theorem summable_one_div_nat_pow {p : ℕ} :
     Summable (fun n => 1 / (n : ℝ) ^ p : ℕ → ℝ) ↔ 1 < p := by
-  -- porting note (#10745): was `simp`
+  -- porting note (#10745): added two simp lemmas
```
Comment (grunweg) [inline Mathlib/Analysis/PSeries.lean:226]: Clarified this porting note; the important part is that these lemmas need to be supplied to simp now. (The former is tagged simp, the latter is not.)

File: Mathlib/Analysis/Complex/Conformal.lean [hunk 3]
```diff
@@ -58,10 +58,8 @@ theorem isConformalMap_complex_linear {map : ℂ →L[ℂ] E} (nonzero : map ≠
     simp only [map.coe_coe, map.map_smul, norm_smul, norm_inv, norm_norm]
     field_simp only [one_mul]
   · ext1
-    -- porting note (#10745): was simp
-    rw [coe_restrictScalars', coe_smul', LinearIsometry.coe_toContinuousLinearMap,
-      LinearIsometry.coe_mk, Pi.smul_apply, LinearMap.smul_apply, LinearMap.coe_restrictScalars,
-      coe_coe, smul_inv_smul₀ minor₁]
+    -- porting note (#10745): was `simp`; added simp lemma
```
Comment (grunweg) [inline Mathlib/Analysis/Complex/Conformal.lean:61]: Also clarified this note: this proof fails without specifying `smul_inv_smul₀ minor₁` (which is tagged simp).

File: Mathlib/CategoryTheory/Limits/FilteredColimitCommutesFiniteLimit.lean [hunk 4]
```diff
@@ -137,13 +137,8 @@ theorem colimitLimitToLimitColimit_injective :
     ext j
     -- Now it's just a calculation using `W` and `w`.
     simp only [Functor.comp_map, Limit.map_π_apply, curry_obj_map_app, swap_map]
-    rw [← W _ _ (fH j)]
-    rw [← W _ _ (gH j)]
-    -- Porting note: this was `simp [w]` in lean 3; this is presumably a confluence issue
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Limits/FilteredColimitCommutesFiniteLimit.lean:142]: I didn't look into whether there is or was a confluence issue: in any case, the original proof works now.

File: Mathlib/Geometry/Manifold/VectorBundle/FiberwiseLinear.lean [hunk 5]
```diff
@@ -249,7 +249,7 @@ def smoothFiberwiseLinear : StructureGroupoid (B × F) where
       (h2φ : SmoothOn IB 𝓘(𝕜, F →L[𝕜] F) (fun x => (φ x).symm : B → F →L[𝕜] F) U),
         {e | e.EqOnSource (FiberwiseLinear.partialHomeomorph φ hU hφ.continuousOn h2φ.continuousOn)}
   trans' := by
-    simp only [mem_aux]
+    simp only [mem_iUnion]
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/VectorBundle/FiberwiseLinear.lean:252]: `mem_aux` is a private lemma right before this one which is tagged with a porting note
"/- Porting note: `simp only [mem_iUnion]` fails in the next definition. This aux lemma is a
workaround. -/"
This reverts the workaround in three places.

File: Mathlib/CategoryTheory/Limits/FilteredColimitCommutesFiniteLimit.lean [hunk 6]
```diff
@@ -137,13 +137,10 @@ theorem colimitLimitToLimitColimit_injective :
...
-    rw [lim_map, lim_map, Limit.map_π_apply, Limit.map_π_apply, Functor.map_comp,
-      Functor.map_comp, FunctorToTypes.comp, FunctorToTypes.comp, curry_obj_map_app,
-      curry_obj_map_app, curry_obj_map_app, Functor.comp_map, Functor.comp_map,
-      Functor.comp_map, swap_map, swap_map, swap_map, w]
+    rw [← W _ _ (fH j), ← W _ _ (gH j)]
+    -- Porting note: had to add `Limit.map_π_apply` (which was un-tagged simp since "simp can
+    -- prove it") is this a confluence issue?
```
Comment (grunweg) [inline Mathlib/CategoryTheory/Limits/FilteredColimitCommutesFiniteLimit.lean:142]:
```suggestion
    -- Porting note(#10745): had to add `Limit.map_π_apply`
    -- (which was un-tagged simp since "simp can prove it")

File: Mathlib/Analysis/PSeries.lean (hunk 2 above)
Comment (mattrobball) [reply Mathlib/Analysis/PSeries.lean:226]: I originally read this as you wrote two new lemmas and tagged them with `simp`. Perhaps "supplied" is a clearer verb.

File: Mathlib/Analysis/Complex/Conformal.lean (hunk 3 above)
Comment (mattrobball) [reply Mathlib/Analysis/Complex/Conformal.lean:61]: Supplied here also

**Review by mattrobball — APPROVED** [review]

**Comment by mattrobball** [comment]
Can you change the language and then merge? Thanks! Great to see things cleaned up. 

bors delegate+

File: Mathlib/Algebra/Polynomial/Basic.lean [hunk 7]
```diff
@@ -689,8 +689,7 @@ theorem toFinsupp_apply (f : R[X]) (i) : f.toFinsupp i = f.coeff i := by cases f
 
 theorem coeff_monomial : coeff (monomial n a) m = if n = m then a else 0 := by
   -- porting note (#10745): was `simp [← ofFinsupp_single, coeff, LinearMap.coe_mk]`.
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Basic.lean:691]:
```suggestion
```

**Review by jcommelin — COMMENTED** [review]
I think that if the remaining boundary cases in this diff are amply documented, then this is ready for merging.

(So please follow-up on eg Matt's suggestion to use `supply` instead of `add`.)

Thanks for doing this!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
